US04640703
With efficient stirring, 19.1 g (0.1 mole) of 2-bromopropionic acid N-cyano-N-methylamide are added dropwise to a solution of 20.0 g (0.1 mole) of hydroquinone monobenzyl ether and 16.5 g (0.12 mole) of potassium carbonate in 200 ml of dimethylformamide. After the slightly exothermic reaction has subsided, the reaction mixture is heated for 3 hours to 40° C. The precipitated salts are then removed by filtration and the filtrate is concentrated by evaporation. The residue is dissolved in ether and the ether solution is extracted with dilute sodium hydroxide solution. The organic phase is dried over sodium sulfate, the solvent is evaporated off and the residue is distilled in vacuo, affording 19.5 g (63% of theory) of 2-(4-benzyloxyphenoxy)propionic acid N-cyano-N-methylamide with a melting point of 56°-58° C.

reactant | 2-bromopropionic acid N-cyano-N-methylamide | 0.1 mole, 19.1 g | C(#N)N(C(C(C)Br)=O)C | C5H7BrN2O
reactant | hydroquinone monobenzyl ether | 0.1 mole, 20.0 g | C=1(O)C(=CC(O)=CC1)C1=CC=CC=C1COCC1=CC=CC=C1C=1C(O)=CC=C(C1)O | C26H22O5
reactant | potassium carbonate | 0.12 mole, 16.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-(4-benzyloxyphenoxy)propionic acid N-cyano-N-methylamide | 19.5 g, 63% | C(#N)N(C(C(C)OC1=CC=C(C=C1)OCC1=CC=CC=C1)=O)C | C18H18N2O3
